US06121307
[3-(5-Fluoro-1H-indol-3-yl)propyl]-[2-(5-fluoro-2-methoxy-phenoxy)-ethyl]-amine
A solution of 2-(5-fluoro-2-methoxy-phenoxy)ethylchloride (0.3 g, 1.5 mmol), 3-(5-fluoro-1H-indol-3-yl)propylamine (0.56 g, 2.9 mmol) in dimethylsulfoxide (20 ml) was allowed to stir for 12 h at 90° C. The reaction mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 0.39 g (77%) of product as a white solid: mp 119-122° C.

reactant | 2-(5-fluoro-2-methoxy-phenoxy)ethylchloride | 1.5 mmol, 0.3 g | FC=1C=CC(=C(OCCCl)C1)OC | C9H10ClFO2
reactant | 3-(5-fluoro-1H-indol-3-yl)propylamine | 2.9 mmol, 0.56 g | FC=1C=C2C(=CNC2=CC1)CCCN | C11H13FN2
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)propyl]-[2-(5-fluoro-2-methoxy-phenoxy)-ethyl]-amine | 0.39 g, 77% | FC=1C=C2C(=CNC2=CC1)CCCNCCOC1=C(C=CC(=C1)F)OC | C20H22F2N2O2
